US07820356B2
Synthesis of Butyl Norbornene/Norbornenylethyltrimethoxysilane Copolymer (P25)
BuNB (25.44 g, 0.169 mol), Norbornenylethyltrimethoxysilane (TMSENB, CAS 68245-19-2) (4.56 g, 0.019 mol), triethyl silane (0.11 g, 9.41E-04 mol), ethanol (0.10 g, 2.26E-03 mol) and toluene (170.0 g) were combined in a 300 mL serum bottle and heated to 80° C. in an oil bath to form a solution. To this solution were injected Pd1446 (0.022 g, 1.50E-05 mol) and DANFABA (0.036 g, 4.51E-5 mol), each in the form of a concentrated solution in dichloromethane. After addition, the resulting mixture was maintained at 80° C. for 4 hours. The copolymer was precipitated by adding methanol drop wise into the vigorously stirred reaction mixture. The precipitated copolymer was collected by filtration and dried in an oven at 60° C. under vacuum. After drying, 22.60 g was obtained (69%). The molecular weight of the copolymer was determined by GPC in THF solvent (polystyrene standard) to be Mw=20,000 and Mn=13,000. The composition of the copolymer was determined by 1H-NMR to be (91/9) BuNB/TMSENB copolymer. The refractive indices of this polymer were measured by prism coupling method and determined to be 1.5106 in TE mode and 1.5105 in TM mode at a wavelength of 633 nm The dried copolymer was dissolved in sufficient toluene to result in a 30 wt % copolymer solution.

reactant | Norbornenylethyltrimethoxysilane | 0.019 mol, 4.56 g | C12(C=CC(CC1)C2)CC[Si](OC)(OC)OC | C12H22O3Si
reactant | triethyl silane | 0.11 g | C(C)[SiH](CC)CC | C6H16Si
reactant | ethanol | 0.10 g | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 170.0 g | C1(=CC=CC=C1)C | C7H8
product | Butyl Norbornene Norbornenylethyltrimethoxysilane | C(CCC)C12C=CC(CC1)C2.C12(C=CC(CC1)C2)CC[Si](OC)(OC)OC | InChI=1S/C12H22O3Si.C11H18/c1-13-16(14-2,15-3)9-8-12-6-4-11(10-12)5-7-12;1-2-3-6-11-7-4-10(9-11)5-8-11/h4,6,11H,5,7-10H2,1-3H3;4,7,10H,2-3,5-6,8-9H2,1H3
